US04220646
Butyric acid (0.71 g.) is added to a suspension of 6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole (2.50 g.) and N,N'-dicyclohexyl-carbodiimide (1.67 g.) in anhydrous methylene chloride (50 cc.) and the mixture is stirred for 1 hour at 20° C. After filtering off the dicyclohexylurea formed, washing with methylene chloride (15 cc.) and evaporating the solvent, the residue obtained (3.8 g.) is washed with boiling ethanol (35 cc.) and then recrystallised from a mixture of acetonitrile (110 cc.) and ethanol (11 cc.). 5-(4-Butyrylpiperazin-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole (1.95 g.), which melts at 248° C., is thus obtained.

reactant | Butyric acid | 0.71 g | C(CCC)(=O)O | C4H8O2
reactant | 6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole | 2.50 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=C(C1OC(=O)N1CCNCC1)SCCS2)=O | C19H18ClN5O3S2
reactant | N,N'-dicyclohexyl-carbodiimide | 1.67 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | 5-(4-Butyrylpiperazin-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-dithiino[2,3-c]pyrrole | 1.95 g | C(CCC)(=O)N1CCN(CC1)C(=O)OC1C2=C(C(N1C1=NC3=NC(=CC=C3C=C1)Cl)=O)SCCS2 | C23H24ClN5O4S2
